US08633207B2
To ethyl 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate (470 mg, 2.13 mmol) were added MeOH (4 mL), THF (4 mL) and 1.2; N NaOH (2 mL, 2.4 mmol). The solution was stirred at rt for 30 min and then concentrated to dryness to afford sodium 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate (430 mg, 94%). 1H NMR (300 MHz, DMSO-d6) δ 8.94 (s, 2H).

reactant | ethyl 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate | 2.13 mmol, 470 mg | FC(C(=O)OCC)(C1=NC=C(C=N1)F)F | C8H7F3N2O2
reactant | MeOH | 4 mL | CO | CH4O
reactant | NaOH | 2.4 mmol, 2 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | sodium 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate | 430 mg, 94% | FC(C(=O)[O-])(C1=NC=C(C=N1)F)F.[Na+] | InChI=1S/C6H3F3N2O2.Na/c7-3-1-10-4(11-2-3)6(8,9)5(12)13;/h1-2H,(H,12,13);/q;+1/p-1
